datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([C:31]([H:36])([H:37])[H:38])[H:35])([H:32])([H:33])[H:34]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:30]([C:29]([H:32])([H:33])[H:34])([C:31]([H:36])([H:37])[H:38])[H:35])([H:15])([H:16])[H:17],27.6981
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12])[H:5],27.1542
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:10])([H:11])[H:12])=[O:7])([H:8])[H:9]>>[C:0]([O:1])([H:2])([H:3])[C:4]([C:5]([C:6]([H:10])([H:11])[H:12])=[O:7])([H:8])[H:9],27.568376
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[S:15]=[C:16][S:17][H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:16](=[S:15])[S:17][H:18],54.392
[I:0].[c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11]>>[I:0][c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11],0.0
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([O:3])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])=[O:3])([H:7])([H:8])[H:9].[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14],46.35872
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][O:15][H:16],-8.029096
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16](=[S:17])[H:22])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:18])([H:19])[H:20])([C:16](=[S:17])[H:22])[H:21],74.8936
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([O:4][H:10])[H:6])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([O:4][C:11]([H:12])([H:13])[H:14])[H:6])[H:5].[H:10],176.718
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14])[H:4],28.7441
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([O:15][O:16])([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:16][O:15][C:14]([C:13]([C:12]([H:17])([H:18])[H:19])([H:20])[H:21])([H:22])[H:23],62.3416
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:12])[H:6])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:15])([H:13])[H:14],81.588
[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[O:6][H:7]>>[C:0]([C:1]#[N:2])([H:4])[H:5].[H:3][O:6][H:7],8.368
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[H:10]>>[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][H:10],22.861376
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][S:6][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],28.2838
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([O:7][O:8][H:19])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:13])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],40.128744
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][C:8](=[C:9]([H:11])[H:12])[H:10],43.5136
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13](=[S:14])[H:19])([H:15])([H:16])[H:17],1.50624
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[Cl:11]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][Cl:11],-0.623585
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:22])([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:21])([H:4])[H:5].[C:9]([C:10]([S:11][H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:18])([H:19])[H:20],23.8488
